US06979741B2
(3R)-1′-(Anthracene-9-carbonyl)-[1,4′]bipiperidinyl-3-carboxylic acid ethyl ester
Anthracene-9-carbonyl chloride (62.2 mmol) was suspended in anhydrous dichloromethane (30 mL) and added slowly by pipette to a solution of [1,4′]bipiperidinyl-3-Carboxylic acid ethyl ester bishydrochloride (62.2 mmol) and triethylamine (4 eq., 35 mL) in anhydrous dichloromethane (50 mL) at such a rate that a gentle reflux was maintained. The resulting suspension was stirred overnight at ambient temperature then shaken with ice-cold water containing sodium hydroxide (0.19 mol, 7.6 g). The dichloromethane layer was separated and the aqueous layer was extracted with dichloromethane. The combined dichloromethane solution was washed with water, dried with anhydrous sodium sulfate, diluted with a little xylene and evaporated to dryness to give the title compound (containing a small amount of the corresponding isopropyl ester) as a pale yellow gummy foam (30.8 g).

reactant | Anthracene-9-carbonyl chloride | 62.2 mmol | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)Cl | C15H9ClO
reactant | [1,4′]bipiperidinyl-3-Carboxylic acid ethyl ester bishydrochloride | 62.2 mmol | Cl.Cl.C(C)OC(=O)C1CN(CCC1)C1CCNCC1
reactant | triethylamine | 35 mL, 4 eq. | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 0.19 mol, 7.6 g | [OH-].[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (3R)-1′-(Anthracene-9-carbonyl)-[1,4′]bipiperidinyl-3-carboxylic acid ethyl ester | C(C)OC(=O)[C@H]1CN(CCC1)C1CCN(CC1)C(=O)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C28H32N2O3
